US09079914B2
30-(9) Synthesis of tert-butyl[(4S,4aS,5R,7aS)-7a-(2-fluoro-5-nitrophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-yl)carbamate
(4S,4aS,5R,7aS)-7a-(2-fluoro-5-nitrophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-amine (Preparation Example 30-(8)) (218 mg, 0.60 mmol) was dissolved in THF (5 mL). The reaction mixture was cooled to 0° C. N,N-diethylethanamine (0.19 g, 1.92 mmol) was injected. Di-tert-butyl dicarbonate (235.63 mg, 1.08 mmol) was transferred portion wise over 20 min into the reaction vessel. The reaction mixture was allowed to warm to RT and stir overnight. LCMS (Agilent Method A) retention time 6.53 min, ES+: 464 [MH]+. The reaction was concentrated and purified by flash chromatography (Hexane/EtOAc 20-100%) 255 mg (89%) of the title compound (85%) and its isomer (15%) were isolated as a mixture.

reactant | (4S,4aS,5R,7aS)-7a-(2-fluoro-5-nitrophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-amine | 0.60 mmol, 218 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@@]12N=C(O[C@@H]([C@@H]1[C@H](OC2)C)C(F)(F)F)N | C14H13F4N3O4
reactant | N,N-diethylethanamine | 1.92 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl dicarbonate | 1.08 mmol, 235.63 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl[(4S,4aS,5R,7aS)-7a-(2-fluoro-5-nitrophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-yl)carbamate | C(C)(C)(C)OC(NC=1O[C@@H]([C@H]2[C@@](N1)(CO[C@@H]2C)C2=C(C=CC(=C2)[N+](=O)[O-])F)C(F)(F)F)=O | C19H21F4N3O6
